US07358238B2
To a solution of 7-chloro-3,4,5,6-tetrahydro-2H-azepine (1.32 g, 10 mmol, J. Med. Chem. 30, 1543-49) in benzene (20 ml) was added 2-bromo-benzoic acid hydrazide (1.08 g, 5 mmol) and the mixture was stirred at reflux temperature for 5 hrs. To the cooled reaction mixture was added 10% sodium hydroxide (10 ml) and diethyl ether (20 ml). The mixture was stirred for 30 min., the precipitate filtered off and dried in vacuo at 50° C. for 1 hr. affording 0.6 g of 2-bromo-benzoic acid-N′-(4,5,6,7-tetrahydro-3H-azepin-2-yl)-hydrazide which was dissolved in ethanol (20 ml) followed by addition of TEA (5 ml) and refluxed for 16 hrs. The volatiles were evaporated in vacuo and to the residue was added diethyl ether (10 ml) and ethyl acetate (5 ml). The precipitate was filtered off and dried in vacuo at 50° C. for 1 hr affording 0.35 g (24%) of the title compound as a solid.

reactant | 7-chloro-3,4,5,6-tetrahydro-2H-azepine | 10 mmol, 1.32 g | ClC=1CCCCCN1 | C6H10ClN
reactant | 2-bromo-benzoic acid hydrazide | 5 mmol, 1.08 g | BrC1=C(C(=O)NN)C=CC=C1 | C7H7BrN2O
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 2-bromo-benzoic acid-N′-(4,5,6,7-tetrahydro-3H-azepin-2-yl)-hydrazide | 0.6 g | N1=C(CCCCC1)NNC(C1=C(C=CC=C1)Br)=O | C13H16BrN3O
